US05886036
C. Methyl 3-(2-Isopropyl-4-thiazolyl)propanoate
A solution of 225 mg (1 mmol) of (E)-ethyl 3-(2-isopropyl-4-thiazolyl) propenoate in 10 ml of freshly distilled (from calcium hydride) methanol and 1 ml of dry THF was treated with 49 mg (2 mmol) of magnesium turnings. The mixture was stirred for 20 min, during which the magnesium was consumed. The resulting solution was poured over cold aqueous HCl, basified to pH 8 with NaHCO3, extracted with ethyl acetate, dried over Na2SO4, and concentrated. Silica gel chromatography using 10% ethyl acetate in hexane provided a mixture of the desired compound and methyl 3-(2-isopropyl-4-thiazolinyl)propanoate.

reactant | methanol | CO | CH4O
reactant | magnesium | 2 mmol, 49 mg | [Mg] | Mg
reactant | methyl 3-(2-isopropyl-4-thiazolinyl)propanoate | C(C)(C)C1(SC=CN1)CCC(=O)OC | C10H17NO2S
reactant | THF | 1 ml | C1CCOC1 | C4H8O
product | Methyl 3-(2-Isopropyl-4-thiazolyl)propanoate | C(C)(C)C=1SC=C(N1)CCC(=O)OC | C10H15NO2S
